US05387603
To a solution of 5-[2-[N-tert-butoxycarbonyl-2-(2-ethoxyphenoxy)ethylamino]propyl]-1-[2-(tert-butyldimethylsiloxy)ethyl]indoline-7-carboxamide (170 mg) in tetrahydrofuran (2 ml) was added a 1M solution of tetrabutylammonium fluoride in tetrahydrofuran (270 μl), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure. To the residue was added water, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by medium pressure liquid column chromatography on silica gel using ethyl acetate as eluent to give 114 mg of 5-[2-[N-tert-butoxycarbonyl-2-(2-ethoxyphenoxy)ethylamino]propyl]-1-(2-hydroxyethyl)indoline-7-carboxamide as an oil.

reactant | 5-[2-[N-tert-butoxycarbonyl-2-(2-ethoxyphenoxy)ethylamino]propyl]-1-[2-(tert-butyldimethylsiloxy)ethyl]indoline-7-carboxamide | 170 mg | C(C)(C)(C)OC(=O)N(C(CC=1C=C2CCN(C2=C(C1)C(=O)N)CCO[Si](C)(C)C(C)(C)C)C)CCOC1=C(C=CC=C1)OCC | C35H55N3O6Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 270 μl | O1CCCC1 | C4H8O
product | 5-[2-[N-tert-butoxycarbonyl-2-(2-ethoxyphenoxy)ethylamino]propyl]-1-(2-hydroxyethyl)indoline-7-carboxamide | 114 mg | C(C)(C)(C)OC(=O)N(C(CC=1C=C2CCN(C2=C(C1)C(=O)N)CCO)C)CCOC1=C(C=CC=C1)OCC | C29H41N3O6
